US04727060
Cyclohepta[b]pyrrole-5-carboxylic acid nitrile: 800 mg of cyclohepta[b]pyrrole (manufactured according to Helv. Chim. Acta 67, 1647 (1984)) are added in portions, at 0°, to a solution of 1.1 ml of oxalyl chloride in 40 ml of DMF. The whole is subsequently stirred for 30 minutes at room temperature, then 60 ml of saturated sodium acetate solution are added and the pH is adjusted to 9 with concentrated ammonia. The cyclohepta[b]pyrrole-5-carbaldehyde formed is extracted with methylene chloride and purified by flash chromatography with solvent system N6. Rf (N6)=0.46.

reactant | cyclohepta[b]pyrrole | 800 mg | N1=C2C(C=C1)=CC=CC=C2 | C9H7N
reactant | oxalyl chloride | 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium acetate | 60 ml | C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | cyclohepta[b]pyrrole-5-carbaldehyde | N1=C2C(C=C1)=CC(=CC=C2)C=O | C10H7NO
